US07935815B2
Methyl 5-oxo-2-(2-trifluoromethylphenyl)hexanoate (728 mg) was dissolved in methanol (15.2 mL). Sodium borohydride (47.8 mg) was added under ice-cooling, and the reaction solution was stirred at the same temperature for 30 minutes. A 1 N hydrochloric acid aqueous solution was added to the reaction solution, followed by extraction with ethyl acetate. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The resulting residue was dissolved in chloroform (15 mL). Thionyl chloride (576 μL) was added and the reaction solution was stirred at 50° C. for three hours. The reaction solution was concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (carrier: Chromatorex Si; elution solvent: heptane:ethyl acetate=19:1→heptane:ethyl acetate=1:1) to obtain methyl 5-chloro-2-(2-trifluoromethylphenyl)hexanoate (380 mg) as a diastereomer mixture. The mixture (320 mg) was dissolved in ethanol (7.8 mL). Hydrazine monohydrate (1.5 mL) was added and the reaction solution was stirred at 100° C. for 14 hours. The reaction solution was concentrated under reduced pressure. A saturated sodium bicarbonate solution was added to the residue, followed by extraction with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (carrier: Chromatorex Si; elution solvent: heptane:ethyl acetate=19:1→heptane:ethyl acetate=1:1) to obtain the title compound (380 mg).

reactant | Methyl 5-oxo-2-(2-trifluoromethylphenyl)hexanoate | 728 mg | O=C(CCC(C(=O)OC)C1=C(C=CC=C1)C(F)(F)F)C | C14H15F3O3
reactant | Sodium borohydride | 47.8 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 15.2 mL | CO | CH4O
product | methyl 5-chloro-2-(2-trifluoromethylphenyl)hexanoate | 380 mg | ClC(CCC(C(=O)OC)C1=C(C=CC=C1)C(F)(F)F)C | C14H16ClF3O2
